US06355653B1
93.1 g (0.29 mol) Benzenecarboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide were heated at 200° C. for 30 minutes. The molten mass was then cooled, dissolved in 500 ml hot ethanol and stirred for 15 hous at room temperature. The precipitated crystals were filtered off and dried to yield 65.6 g (75%) 3-benzenesulfonylmethyl-5-phenyl-1H-[1,2,4]triazole with mp. 141-144° C. MS m/e (%): 299 (M+, 100).

reactant | Benzenecarboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide | 0.29 mol, 93.1 g | NC(CS(=O)(=O)C1=CC=CC=C1)=NNC(=O)C1=CC=CC=C1 | C15H15N3O3S
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-benzenesulfonylmethyl-5-phenyl-1H-[1,2,4]triazole | 65.6 g, 75% | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C1=CC=CC=C1 | C15H13N3O2S
